### PR TITLE
Arithmetic-geometric mean inequality on the rational numbers

### PR DESCRIPTION
**Pull request by lowasser**
This is intended as a step towards being able to take square roots on the real numbers (by showing [Heron's method](https://en.wikipedia.org/wiki/Methods_of_computing_square_roots#Heron's_method) converges to the square root).

### CODE REVIEW

File: src/elementary-number-theory/inequality-arithmetic-geometric-means-integers.lagda.md
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-arithmetic-geometric-means-integers.lagda.md:1]: This inequality is number 38 on Freek Wiedijk's list of 100 theorems! Could you add yourself to our file `literature.100-theorems` with the appropriate backlinks?

File: src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md:1]: This inequality is number 38 on Freek Wiedijk's list of 100 theorems! Could you add yourself to our file `literature.100-theorems` with the appropriate backlinks?

File: src/elementary-number-theory/inequality-arithmetic-geometric-means-integers.lagda.md [hunk 1]
```diff
@@ -0,0 +1,84 @@
...
+The
+{{#concept "arithmetic mean-geometric mean inequality" WD="AM-GM inequality" WDID=Q841170}}
+states that $\sqrt{xy} \leq \frac{x + y}{2}$. We cannot take square roots on
+integers, but we can prove the equivalent inequality that $4xy \leq (x + y)^2$.
+
+## Proof
+
+```agda
+abstract
+  leq-gm-am-ℤ :
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-arithmetic-geometric-means-integers.lagda.md:38]: One of the following names seems most appropriate for this entry

```suggestion
  arithmetic-mean-geometric-mean-inequality-ℤ :
```

```suggestion
  leq-arithmetic-mean-geometric-mean-ℤ :
```

File: src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md [hunk 2]
```diff
@@ -0,0 +1,155 @@
...
+
+</details>
+
+## Idea
+
+The
+{{#concept "arithmetic mean-geometric mean inequality" WD="AM-GM inequality" WDID=Q841170}}
+states that $\sqrt{xy} \leq \frac{x + y}{2}$, where that square root is defined.
+We cannot take square roots on arbitrary
+[rational numbers](elementary-number-theory.rational-numbers.md), but we can
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md:37]:
```suggestion
We cannot take arbitrary square roots in
[rational numbers](elementary-number-theory.rational-numbers.md), but we can
```
There are two potential obstructions to taking square roots on rational numbers, and it is not clear which obstruction you are thinking of here. By using the phrasing "in rational numbers", you make it clear that you want an operation that produces a rational number (i.e., both obstructions apply)

File: src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md [hunk 3]
```diff
@@ -0,0 +1,155 @@
...
+open import foundation.logical-equivalences
+open import foundation.transport-along-identifications
+```
+
+</details>
+
+## Idea
+
+The
+{{#concept "arithmetic mean-geometric mean inequality" WD="AM-GM inequality" WDID=Q841170}}
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md:34]:
```suggestion
{{#concept "arithmetic mean-geometric mean inequality" Disambiguation="on rational numbers" WD="AM-GM inequality" WDID=Q841170 Agda=eq-gm-am-iff-eq-ℚ}}
```

File: src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md [hunk 4]
```diff
@@ -0,0 +1,155 @@
...
+        ( is-nonnegative-ℚ)
+        ( eq-square-sum-minus-four-mul-ℚ-square-diff x y)
+        ( is-nonnegative-square-ℚ (x -ℚ y)))
+```
+
+### The arithmetic and geometric means of `x` and `y` are equal if and only if `x = y`
+
+```agda
+abstract
+  eq-eq-gm-am-ℚ :
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md:125]: e.g. `eq-eq-arithmetic-mean-geometric-mean-ℚ`

File: src/elementary-number-theory/inequality-arithmetic-geometric-means-integers.lagda.md [hunk 5]
```diff
@@ -0,0 +1,84 @@
...
+```
+
+</details>
+
+## Idea
+
+The
+{{#concept "arithmetic mean-geometric mean inequality" WD="AM-GM inequality" WDID=Q841170}}
+states that $\sqrt{xy} \leq \frac{x + y}{2}$. We cannot take square roots on
+integers, but we can prove the equivalent inequality that $4xy \leq (x + y)^2$.
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-arithmetic-geometric-means-integers.lagda.md:32]:
```suggestion
states that $\sqrt{xy} \leq \frac{x + y}{2}$. We cannot take arbitrary square roots in
integers, but we can prove the equivalent inequality that $4xy \leq (x + y)^2$.
```

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 6]
```diff
@@ -296,6 +308,66 @@ neg-leq-ℤ x y =
       commutative-add-ℤ (neg-ℤ (neg-ℤ y)) (neg-ℤ x))
 ```
 
+### Transposing additions on inequalities of integers
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integers.lagda.md:311]:
```suggestion
### Transposing additions over inequalities of integers
```

File: src/elementary-number-theory/positive-rational-numbers.lagda.md [hunk 7]
```diff
@@ -198,6 +198,15 @@ module _
       is-positive-eq-ℤ (cross-mul-diff-zero-fraction-ℤ (fraction-ℚ x))
 ```
 
+### Zero is not a positive rational number
+
+```agda
+abstract
+  not-is-positive-zero-ℚ : ¬ (is-positive-ℚ zero-ℚ)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/positive-rational-numbers.lagda.md:205]:
```suggestion
  is-not-positive-zero-ℚ : ¬ (is-positive-ℚ zero-ℚ)
```

File: src/elementary-number-theory/squares-integers.lagda.md [hunk 8]
```diff
@@ -107,3 +122,54 @@ is-decidable-is-square-ℤ (inr (inr n)) =
...
+      ＝ x *ℤ x +ℤ (x *ℤ y +ℤ (x *ℤ y +ℤ y *ℤ y))
+        by
+          ap
+            ( x *ℤ x +ℤ_)
+            ( ap (x *ℤ y +ℤ_) (ap (_+ℤ y *ℤ y) (commutative-mul-ℤ y x)))
+      ＝ x *ℤ x +ℤ (int-ℕ 2 *ℤ (x *ℤ y) +ℤ y *ℤ y)
+        by ap (x *ℤ x +ℤ_) (inv (associative-add-ℤ (x *ℤ y) (x *ℤ y) (y *ℤ y)))
+      ＝ x *ℤ x +ℤ int-ℕ 2 *ℤ (x *ℤ y) +ℤ y *ℤ y
+        by inv (associative-add-ℤ (x *ℤ x) (int-ℕ 2 *ℤ (x *ℤ y)) _)
+
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/squares-integers.lagda.md:155]:
````suggestion
```

### The square of a difference

We have the identity `(x - y)² = x² - 2xy + y²` for the square of a difference.

```agda
````

File: src/elementary-number-theory/squares-integers.lagda.md [hunk 9]
```diff
@@ -107,3 +122,54 @@ is-decidable-is-square-ℤ (inr (inr n)) =
     ( is-square-nat-is-square-int)
     ( is-decidable-is-square-ℕ (succ-ℕ n))
 ```
+
+### `(x + y)² = x² + 2xy + y²`
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/squares-integers.lagda.md:126]: ### The square of a sum

We have the identity `(x + y)² = x² + 2xy + y²` for the square of a sum.

File: src/elementary-number-theory/squares-rational-numbers.lagda.md [hunk 10]
```diff
@@ -0,0 +1,182 @@
...
+  square-neg-ℚ : (x : ℚ) → square-ℚ (neg-ℚ x) ＝ square-ℚ x
+  square-neg-ℚ x =
+    equational-reasoning
+      neg-ℚ x *ℚ neg-ℚ x
+      ＝ neg-ℚ (x *ℚ neg-ℚ x) by left-negative-law-mul-ℚ x (neg-ℚ x)
+      ＝ neg-ℚ (neg-ℚ (x *ℚ x)) by ap neg-ℚ (right-negative-law-mul-ℚ x x)
+      ＝ x *ℚ x by neg-neg-ℚ (x *ℚ x)
+```
+
+### Squareness in ℚ is decidable
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/squares-rational-numbers.lagda.md:77]:
```suggestion
### Being a square in ℚ is decidable
```

File: src/elementary-number-theory/squares-rational-numbers.lagda.md [hunk 11]
```diff
@@ -0,0 +1,182 @@
...
+
+Has yet to be proved.
+
+### `(x + y)² = x² + 2xy + y²`
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/squares-rational-numbers.lagda.md:81]: same as in squares integers

File: src/elementary-number-theory/squares-rational-numbers.lagda.md [hunk 12]
```diff
@@ -0,0 +1,182 @@
...
+            ( x *ℚ x +ℚ_)
+            ( ap (x *ℚ y +ℚ_) (ap (_+ℚ y *ℚ y) (commutative-mul-ℚ y x)))
+      ＝ x *ℚ x +ℚ ((x *ℚ y +ℚ x *ℚ y) +ℚ y *ℚ y)
+        by ap (x *ℚ x +ℚ_) (inv (associative-add-ℚ _ _ _))
+      ＝ x *ℚ x +ℚ (rational-ℕ 2 *ℚ (x *ℚ y) +ℚ y *ℚ y)
+        by ap (λ z → x *ℚ x +ℚ (z +ℚ y *ℚ y)) (inv (mul-two-ℚ _))
+      ＝ x *ℚ x +ℚ rational-ℕ 2 *ℚ (x *ℚ y) +ℚ y *ℚ y
+        by inv (associative-add-ℚ (x *ℚ x) (rational-ℕ 2 *ℚ (x *ℚ y)) _)
+
+  square-diff-ℚ :
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/squares-rational-numbers.lagda.md:113]: please add the same suggestion as in squares integers

**Review by fredrik-bakke — APPROVED** [review]
Very nice additions. Thank you for the well-written PR

File: src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md
Comment (lowasser) [reply src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md:1]: I have a mild preference for waiting until we prove it on the real numbers with the real square root operation.  Thoughts?

Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md:1]: Ah, indeed, all of the entries in Freek's list use real numbers. Then let's wait.

File: src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md (hunk 4 above)
[the remark this answers is not in the document]
Comment (lowasser) [reply src/elementary-number-theory/inequality-arithmetic-geometric-means-rational-numbers.lagda.md]: I'll do that, but for what it's worth, nearly every site I've seen, including Wikipedia and Wikidata, abbreviate it to the "AM-GM inequality."

**Review by fredrik-bakke — APPROVED** [review]
